US04616023
In operations carried out in a manner similar to that described in Example VI, 0.5 gram (13 millimoles) of sodium borohydride was added to a solution of 0.8 gram (3.2 millimoles) of 3-methylthio-5H-dibenzo[a,d]cyclohepten-5-one in 20 milliliters of ethanol to which 1 drop of 40 percent sodium hydroxide had been added and the resulting mixture stirred overnight at room temperature. Thereafter, water was added to the reaction mixture, the aqueous mixture subjected to reduced pressure to remove the ethanol, the remaining aqueous solution extracted with ether, the ether solution washed successively with water and saturated sodium chloride, and then dried over magnesium sulfate. The dried solution was subjected to reduced pressure to obtain the 3-methylthio-5H-dibenzo[a,d]cyclohepten-5-ol intermediate as a white solid.

reactant | sodium borohydride | 13 millimoles, 0.5 gram | [BH4-].[Na+]
reactant | 3-methylthio-5H-dibenzo[a,d]cyclohepten-5-one | 3.2 millimoles, 0.8 gram | CSC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)=O)C1 | C16H12OS
reactant | water | O | H2O
solvent | ethanol | 20 milliliters | C(C)O | C2H6O
catalyst | sodium hydroxide | 1 drop | [OH-].[Na+]
product | 3-methylthio-5H-dibenzo[a,d]cyclohepten-5-ol | CSC=1C=CC2=C(C(C3=C(C=C2)C=CC=C3)O)C1 | C16H14OS
